US06613770B1
3-[1,4′]Bipiperidinyl-1′-ylmethyl-2-phenyl-quinoline-4-carboxylic Acid Methyl Ester
5 g (14 mmol) of 3-bromomethyl-2-phenyl-quinoline-4-carboxylic acid methyl ester (compound of Description 2), 2.9 g, (15.4 mmol) of 90% [1,4′]Bipiperidinyl (Aldrich), 2.7 ml (15.4 mmol) of ethyl-diisopropyl-amine were dissolved in 100 ml of dry THF and the mixture was stirred for one night at 50° C. The solvent was concentrated, the residue was dissolved in CH2Cl2, washed with water, and the organic phase was dried over MgSO4. After concentration of the solvent, the residue was purified by flash chromatography over 160 g of silicagel (eluting with CH2Cl2/MeOH/NH4OH:95/5/0.5) affording 3.5 g (yield 56%) of the title compound as a white solid.

reactant | 3-bromomethyl-2-phenyl-quinoline-4-carboxylic acid methyl ester | 14 mmol, 5 g | COC(=O)C1=C(C(=NC2=CC=CC=C12)C1=CC=CC=C1)CBr | C18H14BrNO2
reactant | [1,4′]Bipiperidinyl | 15.4 mmol | N1(CCCCC1)C1CCNCC1 | C10H20N2
reactant | ethyl-diisopropyl-amine | 15.4 mmol, 2.7 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 3-[1,4′]Bipiperidinyl-1′-ylmethyl-2-phenyl-quinoline-4-carboxylic Acid Methyl Ester | 3.5 g, yield 56% | COC(=O)C1=C(C(=NC2=CC=CC=C12)C1=CC=CC=C1)CN1CCC(CC1)N1CCCCC1 | C28H33N3O2
